Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___
 
Major Surgical or Invasive Procedure:
___: diagnostic cerebral angiogram
 
History of Present Illness:
___ is a ___ male who presents with intermittent
HA and nausea since head strike while doing pull ups last
___.  His symptoms worsened since seeing the ___
yesterday.  He has ___ HA and persistent nausea.  OSH head
CT/CTA showed prepontine SAH and was negative for vascular
lesion.  
 
Past Medical History:
None
 
Social History:
___
Family History:
NC
 
Physical Exam:
ON ADMISSION
============
___ and ___: 
[x]Grade II: Moderate to severe headache, nuchal rigidity, no    

   neurological deficit other than cranial nerve palsy.

Fisher Grade:
[x]3 Subarachnoid hemorrhage more than 1mm thick

___ Grading Scale:
[x]Grade I: GCS 15, no motor deficit

___ Coma Scale:
[ ]Not intubated

Eye Opening: 
 [ ]4 Opens eyes spontaneously

Verbal:
 [ ]5 Oriented

Motor:
 [ ]6 Obeys commands

 15 Total

O: 
T: 97.6   BP: 147/89     HR:67     R:18       O2Sats:98% RA

Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: ___   EOMs  intact
Neck: Supple.
Lungs: CTA bilaterally.
Cardiac: RRR. S1/S2.
Abd: Soft, NT, BS+
Extrem: Warm and well-perfused. No C/C/E.

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, to
mm bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to finger rub bilaterally.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch

Coordination: normal on finger-nose-finger, rapid alternating
movements, heel to shin

ON DISCHARGE
============
Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious
Orientation: [x]Person [x]Place [x]Time
Follows commands: [ ]Simple [x]Complex [ ]None
Pupils: ___ PERRL bilaterally
EOM: [x]Full [ ]Restricted
Face Symmetric: [x]Yes [ ]NoTongue Midline: [x]Yes [ ]No
Pronator Drift [ ]Yes  x]No     Speech Fluent: [x]Yes [ ]No
Comprehension intact [x]Yes [ ]No
Motor:
TrapDeltoidBicepTricepGrip
___

IPQuadHamATEHLGast
Right___
Left5       5       5       5       5       5

Angio Groin Site: [x]Soft, no hematoma  

 
Pertinent Results:
Please see OMR for pertinent imaging & labs
 
Brief Hospital Course:
On ___, the patient presented with headache and nausea after a 
headstrike 3 days prior to presentation which worsened after 
seeing a chiropractor.  CT showed a prepontine SAH; CTA was 
negative for vascular abnormality.  He was admitted to the ___ 
for close neurologic monitoring. Diagnostic angio on ___ was 
negative. Headache improved over his hospital stay. Repeat CTA 
was again negative for vascular abnormality and show partial 
resolution of prepontine SAH. On ___, he was discharged home 
in stable condition.
 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation  
3.  Dexamethasone 2 mg PO Q8H Duration: 6 Doses 
This is dose # 1 of 4 tapered doses
RX *dexamethasone 1 mg 1 to 2 tablet(s) by mouth as dir Disp 
#*22 Tablet Refills:*0 
4.  Dexamethasone 2 mg PO Q12H Duration: 2 Doses 
This is dose # 2 of 4 tapered doses 
5.  Dexamethasone 1 mg PO Q12H Duration: 4 Doses 
This is dose # 3 of 4 tapered doses 
6.  Dexamethasone 1 mg PO DAILY Duration: 2 Doses 
This is dose # 4 of 4 tapered doses 
7.  Docusate Sodium 100 mg PO BID  
8.  Metoclopramide 10 mg PO Q8H:PRN nausea 
RX *metoclopramide HCl 10 mg 1 tablet(s) by mouth Q8H PRN Disp 
#*12 Tablet Refills:*0 
9.  TraMADol 50 mg PO Q6H:PRN Pain - Severe 
RX *tramadol 50 mg ___ tablet(s) by mouth Q6H PRN Disp #*21 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Subarachnoid hemorrhage

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Activity
• We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
• You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
• No driving while taking any narcotic or sedating medication. 
• If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
• No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
• Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
• You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
• You may have difficulty paying attention, concentrating, and 
remembering new information.
• Emotional and/or behavioral difficulties are common. 
• Feeling more tired, restlessness, irritability, and mood 
swings are also common.
• Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Headaches:
• Headache is one of the most common symptom after a brain 
bleed. 
• Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
• Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
• There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


When to Call Your Doctor at ___ for:
• Severe pain, swelling, redness or drainage from the incision 
site. 
• Fever greater than 101.5 degrees Fahrenheit
• Nausea and/or vomiting
• Extreme sleepiness and not being able to stay awake
• Severe headaches not relieved by pain relievers
• Seizures
• Any new problems with your vision or ability to speak
• Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
• Sudden numbness or weakness in the face, arm, or leg
• Sudden confusion or trouble speaking or understanding
• Sudden trouble walking, dizziness, or loss of balance or 
coordination
• Sudden severe headaches with no known reason

 
Followup Instructions:
___